US05189042
17-Ethyl-20-fluoro-1,14-dihydroxy-12-[2'-(4"-(napth-2-yloxy)-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-20-fluoro-1,14-dihydroxy-12-[2'-(4"-(napth-2-yloxy)-3"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone in 33% methylene chloride/cyclohexane is added 1.5 equivalents of allyl trichloroacetimidate, and the reagents are allowed to mix for 5 minutes. A catalytic amount of trifluoromethanesulfonic acid is then added slowly via syringe and the mixture is stirred at room temperature. After 3 hours the reaction is quenched by the addition of saturated sodium bicarbonate and extracted with ethyl acetate. The combined organics are washed with brine and dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel gives the title compound.

reactant | 17-ethyl-20-fluoro-1,14-dihydroxy-12-[2'-(4"-(napth-2-yloxy)-3"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)F)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC1=CC=CC=C1C=C2)O)C)C)O)=O | C52H72FNO12
reactant | allyl trichloroacetimidate | 1.5 equivalents | ClC(C(OCC=C)=N)(Cl)Cl | C5H6Cl3NO
reactant | trifluoromethanesulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | methylene chloride cyclohexane | C(Cl)Cl.C1CCCCC1
product | 17-Ethyl-20-fluoro-1,14-dihydroxy-12-[2'-(4"-(napth-2-yloxy)-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)F)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC1=CC=CC=C1C=C2)OCC=C)C)C)O)=O | C55H76FNO12
